US04551465
1-[3-[4-[1-(3-Chlorophenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine
7.9 g. of α-ethyl-α-(3-chlorphenyl)-4-hydroxybenzyl alcohol, 14 g. of anhydrous potassium carbonate and 6.6 g. of N-(3-chloropropyl)-piperidine hydrochloride in 80 ml. of methyl isobutyl ketone are boiled under moderate reflux for three hours. The solvent is distilled off under reduced pressure, to the residue water is added and it is extracted with benzene. The benzene phase is washed with an aqueous potassium hydroxide solution and subsequently with water, dried over anhydrous magnesium sulfate, and evaporated to dryness in vacuo. Crystallization of the residue from n-hexane yields 8.6 g. of the title compound, melting at 80° to 81° C.

reactant | α-ethyl-α-(3-chlorphenyl)-4-hydroxybenzyl alcohol | C(C)C(C1=CC=C(C=C1)O)(C1=CC(=CC=C1)Cl)O | C15H15ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-chloropropyl)-piperidine hydrochloride | Cl.ClCCCN1CCCCC1
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | 1-[3-[4-[1-(3-Chlorophenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine | ClC=1C=C(C=CC1)C(CC)(O)C1=CC=C(OCCCN2CCCCC2)C=C1 | C23H30ClNO2
